US08476297B2
To a 50 mL round-bottomed flask was added n-(2-bromoethyl)phthalimide, 95% (508 mg, 1999 μmol, Aldrich), 4-fluoroaniline (193 μL, 1999 μmol, Aldrich), DMF (2 mL), sodium carbonate (336 mg, 3999 μmol). The reaction mixture was stirred at 80° C. for overnight. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (2×40 mL). The organic extract was washed with water (20 mL), saturated NaCl (20 mL), dried over Na2SO4, filtered and concentrated in vacuo and the residue was purified by silica gel chromatography, eluting with 30% EtOAc/hexanes to give 2-(2-(4-fluorophenylamino)ethyl)iso-indoline-1,3-dione. MS (ESI pos. ion) m/z: 285 (M+1).

reactant | n-(2-bromoethyl)phthalimide | C1=CC=C2C(=C1)C(=O)N(C2=O)CCBr | C10H8BrNO2
reactant | 4-fluoroaniline | 1999 μmol, 193 μL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 3999 μmol, 336 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 mL | O | H2O
product | 2-(2-(4-fluorophenylamino)ethyl)iso-indoline-1,3-dione | FC1=CC=C(C=C1)NCCN1C(C2=CC=CC=C2C1=O)=O | C16H13FN2O2
